US05972943
Ethyl 16-methoxymethoxyhexadecanoate
To a solution of 5.44 g of ethyl 16-hydroxyhexadecanoate in 80 ml of dichloromethane was added under ice-cooling 1.63 ml of methoxymethyl chloride, 4.1 ml of diisopropylethylamine was added dropwise and then the mixture was stirred overnight. The reaction solution was diluted with chloroform, washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure. The residue was chromatographed over a silica gel column to afford the title compound as a colorless oily substance.

reactant | ethyl 16-hydroxyhexadecanoate | 5.44 g | OCCCCCCCCCCCCCCCC(=O)OCC | C18H36O3
reactant | methoxymethyl chloride | 1.63 ml | COCCl | C2H5ClO
reactant | diisopropylethylamine | 4.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 16-methoxymethoxyhexadecanoate | COCOCCCCCCCCCCCCCCCC(=O)OCC | C20H40O4
